US04686234
A mixture of 13.3 g of the above product and 7.2 g of potassium thioacetate in 300 ml of acetone was refluxed for 10 hours. The resulting mixture was filtered, most of the solvent evaporated off under vacuum and the remaining solution poured into diethyl ether. The solution was washed with water, the organic solvent removed under vacuum and the residue distilled under vacuum, giving (±)2,2-dimethyl-1,3-dioxolan-4-ylmethyl thioacetate, having a boiling point between 83° C. and 87° C. at a pressure of 0.1 mm Hg.

reactant | potassium thioacetate | 7.2 g | C(C)(=S)[O-].[K+]
reactant | acetone | 300 ml | CC(=O)C | C3H6O
product | (±)2,2-dimethyl-1,3-dioxolan-4-ylmethyl thioacetate | C(C)(=S)OCC1OC(OC1)(C)C | C8H14O3S
